US08877779B2
2-{3-[1-(1,2,3,4-tetrahydronaphthalen-1-yl)piperidin-4-yl]-2,3-dihydro-2-oxo-benzimidazol-1-yl}-N-methylacetamide
1-[1-(1,2,3,4-Tetrahydronaphthalen-1-yl)piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one (476 mg) was dissolved in tetrahydrofuran (5 ml), 60% sodium hydride (66 mg) was added, and the suspension was stirred at 50° C. for 30 min. After cooling to room temperature, ethyl bromoacetate (0.167 ml) was added, and the mixture was stirred for 1 hr. 40% Methylamine-methanol solution (5 ml) was added, the mixture was stirred at room temperature for 1 hr, and the reaction mixture was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform/methanol) to give the title compound (567 mg) as a pale-yellow powder.

reactant | 1-[1-(1,2,3,4-Tetrahydronaphthalen-1-yl)piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one | 476 mg | C1(CCCC2=CC=CC=C12)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C22H25N3O
reactant | sodium hydride | 66 mg | [H-].[Na+]
reactant | ethyl bromoacetate | 0.167 ml | BrCC(=O)OCC | C4H7BrO2
reactant | Methylamine methanol | 5 ml | CN.CO
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-{3-[1-(1,2,3,4-tetrahydronaphthalen-1-yl)piperidin-4-yl]-2,3-dihydro-2-oxo-benzimidazol-1-yl}-N-methylacetamide | 567 mg | C1(CCCC2=CC=CC=C12)N1CCC(CC1)N1C(N(C2=C1C=CC=C2)CC(=O)NC)=O | C25H30N4O2
